US07547691B2
A stirred suspension of 2-[2-(3-aminopropylamino)-5-chloropyrimidin-4-yl]-benzo[b]thiophene-4-carboxylic acid cyclopropylamide (500 mg, 1.24 mmol) in dichloromethane (30 mL) is treated at room temperature with (S)-pyrrolidine-1,3-dicarboxylic acid 1-tert-butyl ester (333 mg, 1.55 mmol), N,N-diisopropylethylamine (0.220 mL, 1.26 mmol), 1-(3-diethylaminopropyl)-3-ethylcarbodiimide hydrochloride (240 mg, 1.25 mmol) and 1-hydroxybenzotriazole (171 mg, 1.21 mmol) for 24 hours. The mixture is then diluted with dichloromethane (30 mL), filtered, washed with water (30 mL) and diethyl ether (30 mL), and dried to provide (S)-3-{3-[5-chloro-4-(4-cyclopropylcarbamoyl-benzo[b]thiophen-2-yl)-pyrimidin-2-ylamino]-propylcarbamoyl}-pyrrolidine-1-carboxylic acid tert-butyl ester (670 mg, 90%). A stirred mixture of this intermediate (665 mg, 1.11 mmol) in dichloromethane (25 mL) is treated at room temperature with TFA (2.5 mL) for 72 hours. The mixture is then concentrated under reduced pressure and subjected to chromatographic purification on silica gel, eluting with 2 M NH3/MeOH in dichloromethane: 16-40%, to provide the title compound (474 mg, 82% yield). ES+(m/z) 499 (35Cl) and 501 (37Cl) [M+H].

reactant | 2-[2-(3-aminopropylamino)-5-chloropyrimidin-4-yl]-benzo[b]thiophene-4-carboxylic acid cyclopropylamide | 1.24 mmol, 500 mg | C1(CC1)NC(=O)C1=CC=CC=2SC(=CC21)C2=NC(=NC=C2Cl)NCCCN | C19H20ClN5OS
reactant | (S)-pyrrolidine-1,3-dicarboxylic acid 1-tert-butyl ester | 1.55 mmol, 333 mg | C(C)(C)(C)OC(=O)N1C[C@H](CC1)C(=O)O | C10H17NO4
reactant | N,N-diisopropylethylamine | 1.26 mmol, 0.220 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 1-(3-diethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 1.25 mmol, 240 mg | Cl.C(C)N(CCCN=C=NCC)CC
reactant | 1-hydroxybenzotriazole | 1.21 mmol, 171 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | (S)-3-{3-[5-chloro-4-(4-cyclopropylcarbamoyl-benzo[b]thiophen-2-yl)-pyrimidin-2-ylamino]-propylcarbamoyl}-pyrrolidine-1-carboxylic acid tert-butyl ester | 670 mg, 90% | C(C)(C)(C)OC(=O)N1C[C@H](CC1)C(NCCCNC1=NC=C(C(=N1)C1=CC2=C(S1)C=CC=C2C(NC2CC2)=O)Cl)=O | C29H35ClN6O4S
